US08426447B2
A 25 ml RBF was charged with (S)-2-amino-7′-bromo-4′-fluoro-5H-spiro[oxazole-4,9′-xanthen]-2′-ol (629 mg, 1.723 mmol), tetrakis(triphenylphosphine)palladium (199 mg, 0.172 mmol), and pyrimidin-5-ylboronic acid (320 mg, 2.58 mmol). DMF (8613 μL) and sodium carbonate (2M solution) (2584 μL, 5.17 mmol) were added and the mixture was stirred at 85° C. for 2.5 hrs. The mixture was cooled to RT, water (−5 ml) was added and stirring was continued for 10 min. The precipitate was filtered out, washed with water (3×5 mL), 1:1 i-PrOH/water to remove color and dried in vacuo to afford (S)-2-amino-4′-fluoro-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2′-ol as yellow solid.

reactant | (S)-2-amino-7′-bromo-4′-fluoro-5H-spiro[oxazole-4,9′-xanthen]-2′-ol | 1.723 mmol, 629 mg | NC=1OC[C@@]2(C3=CC(=CC=C3OC=3C(=CC(=CC23)O)F)Br)N1 | C15H10BrFN2O3
reactant | pyrimidin-5-ylboronic acid | 2.58 mmol, 320 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | DMF | 8613 μL | CN(C)C=O | C3H7NO
reactant | sodium carbonate | 5.17 mmol, 2M, 2584 μL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.172 mmol, 199 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | −5 ml | O | H2O
product | (S)-2-amino-4′-fluoro-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2′-ol | NC=1OC[C@@]2(C3=CC(=CC=C3OC=3C(=CC(=CC23)O)F)C=2C=NC=NC2)N1 | C19H13FN4O3
